US04330539
(b) 17β-Methylacetamido-oestra-1,3,5(10)-triene-3,16α-diol
17β-Methylacetamido-oestra-1,3,5(10)-triene-3,16α-diol diacetate (19.7 g) was dissolved in ethanol (394 ml) and sodium hydroxide (50.9 ml; 2 N) was added. The resulting solution was refluxed for 1 h., cooled to room temperature and water (4 l) was added. The mixture was acidified with hydrochloric acid (2 N) and the precipitated product was filtered off and washed with water. Crystallisation from methanol-ether gave an isomeric mixture of 17β-methylacetamido-oestra-1,3,5(10)-triene-3,16α-diols (13.1 g; 83%).

reactant | 17β-Methylacetamido-oestra-1,3,5(10)-triene-3,16α-diol diacetate | 19.7 g | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)NC(CC)=O)OC(C)=O | C25H33NO5
reactant | sodium hydroxide | 2 N, 50.9 ml | [OH-].[Na+]
reactant | water | 4 l | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 394 ml | C(C)O | C2H6O
product | 17β-Methylacetamido-oestra-1,3,5(10)-triene-3,16α-diol | CCC(=O)N[C@@H]1[C@]2(C)[C@@H](C[C@H]1O)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C21H29NO3
